US08236826B2
Production of 2-(4-hydroxyphenylamino)-1-(4-piperonylpiperazin-1-yl)ethanone
To a solution of N-(4-hydroxyphenyl)glycine (11.38 g, 68.1 mmol) in N,N-dimethylformamide (DMF) (150 mL) were added under ice cooling 1-piperonylpiperazine (15.0 g, 68.1 mmol), 1-hydroxybenzotriazole monohydrate (10.43 g, 68.1 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (15.66 g, 81.7 mmol), and the resulting solution was stirred for 30 minutes under ice cooling and for 4.5 hours at room temperature. The reaction solution was concentrated under reduced pressure. To the residue was added a saturated sodium bicarbonate solution (400 mL), and extracted with ethyl acetate (400 mL). The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated, to leave the resulting product solidified in a powdered form. Ethyl acetate was added, and the resulting product was filtered off and washed with ethyl acetate, to thereby yield 18.58 g of the title compound.

reactant | N-(4-hydroxyphenyl)glycine | 68.1 mmol, 11.38 g | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
reactant | 1-piperonylpiperazine | 68.1 mmol, 15.0 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
reactant | 1-hydroxybenzotriazole monohydrate | 68.1 mmol, 10.43 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 81.7 mmol, 15.66 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-hydroxyphenylamino)-1-(4-piperonylpiperazin-1-yl)ethanone | OC1=CC=C(C=C1)NCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C20H23N3O4
